US06599902B2
To a stirred mixture of 4-amino-1-benzylpiperidine (1.53 mL, 7.5 mmol), K2CO3 (2.28g, 16.5 mmol) and DMF (15 mL) heated at 50° C. was added dropwise over 60 min bis(2-bromoethyl) ether (0.96 mL, 7.65 mmol). After stirring for 6 hours at 80° C., the solvent was removed by blowing with a stream of nitrogen over 2 hours. The residue was purified on a silica gel column to give 1.7 g (87%) of 4-(1-benzyl-piperidin-4-yl)-morpholine as a waxy solid.

reactant | 4-amino-1-benzylpiperidine | 7.5 mmol, 1.53 mL | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | K2CO3 | 16.5 mmol, 2.28g | C(=O)([O-])[O-].[K+].[K+]
reactant | bis(2-bromoethyl) ether | 7.65 mmol, 0.96 mL | BrCCOCCBr | C4H8Br2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(1-benzyl-piperidin-4-yl)-morpholine | 1.7 g, 87% | C(C1=CC=CC=C1)N1CCC(CC1)N1CCOCC1 | C16H24N2O
